US08071593B2
Preparation of 3-chloropropyl (3-hydroxymethylphenyl)carbamate
3.7 g (30 mmol) of 3-aminobenzyl alcohol are dissolved in 50 ml of acetone, and 3.2 g (30 mmol) of sodium carbonate are added. 5.7 g (36 mmol) of 3-chloropropyl chloroformate are metered into this suspension at 25° C. The reaction mixture is stirred at room temperature for a further 18 h. Water is added to the reaction mixture for hydrolysis, and the solid is subsequently filtered off. The solution is concentrated by distillation, during which the product deposits as an oil. The product phase is separated off. The aqueous phase is extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The mixture is subsequently evaporated to dryness. The crude product is reacted further directly without further purification;

reactant | 3-aminobenzyl alcohol | 30 mmol, 3.7 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | sodium carbonate | 30 mmol, 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloropropyl chloroformate | 36 mmol, 5.7 g | ClC(=O)OCCCCl | C4H6Cl2O2
reactant | Water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-chloropropyl (3-hydroxymethylphenyl)carbamate | OCC=1C=C(C=CC1)NC(OCCCCl)=O | C11H14ClNO3
